US07582625B2
(R)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-2-{1′-[2-(2-oxo-piperidin-1-yl)-ethoxycarbonyl-methyl]-4,4′-bipiperidinyl-1-yl}-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
Prepared analogously to Example 3c from 80 mg (0.12 mmol) (R)-2-(1′-carboxymethyl-4,4′-bipiperidinyl-1-yl)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate and 33 mg (0.23 mmol) 1-(2-hydroxyethyl)-piperidin-2-one. After the elimination of the desiccant and solvent the residue was taken up in DCM and again purified by chromatography (silica gel, DCM/EtOH/NH3 95:5:0.5). The fractions containing the product were combined, concentrated by evaporation i. vac., triturated with DIPE, suction filtered and dried.

reactant | (R)-2-(1′-carboxymethyl-4,4′-bipiperidinyl-1-yl)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.12 mmol, 80 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)C1CCN(CC1)CC(=O)O)CC1=CC(=C(C(=C1)C)O)C)C=CC=C2 | C38H51N5O7
reactant | 1-(2-hydroxyethyl)-piperidin-2-one | 0.23 mmol, 33 mg | OCCN1C(CCCC1)=O | C7H13NO2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (R)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-2-{1′-[2-(2-oxo-piperidin-1-yl)-ethoxycarbonyl-methyl]-4,4′-bipiperidinyl-1-yl}-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(N1CCC(CC1)C1CCN(CC1)CC(=O)OCCN1C(CCCC1)=O)=O)CC1=CC(=C(C(=C1)C)O)C)C=CC=C2 | C45H62N6O8
